Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]=[C:3]([H:4])[H:7],5.9288831687800005
[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.35675183793
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],3.97808583188
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],8.21105296388
[H:1][O:2][C@:3]1([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:11](/[C:8]([C:6](=[O:5])[H:7])([H:9])[H:10])[H:12],-2.1923464016
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12].[H:4],1.96333871407
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[O:8][C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],1.66537339676
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.52071025475
[C:5]#[C:6][H:7].[O:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.41137199284
[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:10](\[C:8][H:9])[H:11]>>[H:1][O:2][C:3]1([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11],-1.4783110281
[H:1][O:2][C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.448586135580001
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])#[C:13][H:14].[H:1][C:2]([C:11][H:12])([H:15])[H:16],2.7689354392900003
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.02413723098
[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:4][C:7]([H:8])([H:9])[H:10].[H:1][C:6]([H:3])=[C:5],5.74043200829
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12].[O:1]=[C:2],0.842703934382
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],1.47697230128
[H:10].[O:1][O:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.19956946387
[H:1][C:2]#[C:3][O:4][O:5][H:6]>>[H:1][C:2]#[C:3][O:4].[O:5][H:6],1.42643135199
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])[H:10],1.3736413918
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]=[O:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-3.01398528556
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],3.38910601639
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],3.5648641927499995
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8].[H:9],4.87233342974
[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.61059761198
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][H:8]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6][O:7][H:8],-1.44046609559
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3],4.04263140417
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.50003151845
[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-3.83549082602
[H:16].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-2.07937644256
